US04401660
A suspension of phenoxyacetic acid (15.2 g, 100 mmol) and N-hydroxysuccinimide (11.5 g, 100 mmol) in ethyl acetate (300 ml) was cooled in an ice bath, treated with N,N'-dicyclohexylcarbodiimide (20.6 g, 100 mmol) and stirred for 1 hour at 0° and then overnight at room temperature. The precipitate which formed was filtered; the filtrate was evaporated to dryness; and the residue was crystallized from ethyl acetate to yield 15.0 g of N-(phenoxyacetyloxy)succinimide.

reactant | phenoxyacetic acid | 100 mmol, 15.2 g | O(C1=CC=CC=C1)CC(=O)O | C8H8O3
reactant | N-hydroxysuccinimide | 100 mmol, 11.5 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N'-dicyclohexylcarbodiimide | 100 mmol, 20.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | N-(phenoxyacetyloxy)succinimide | 15.0 g | O(C1=CC=CC=C1)CC(=O)ON1C(CCC1=O)=O | C12H11NO5
